Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide / Lipitor / Ultram
 
Attending: ___.
 
Chief Complaint:
___, poor PO intake
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F referred in by her PCP. Patient has history of severe 
AS (peak gradient of 58, mean of 35, EF55% in ___, dCHF, HTN. 
She went in to her PCP with dyspnea on exertion, and routine 
labs showed a BUN/Cr of 50/2.4 so patient referred into ___ 
ED. She has had increased Lasix dosing, and decreased PO intake 
(has had increased GERD recently and thus not tolerating 
excellent PO, has plans for GI f/u in coming weeks). In this 
context, patient has had dyspnea while ambulating. On ROS she 
denies fever/chills/chest pain, shortness of breath at rest. 
Denies any urinary/stool changes, does have +left knee pain and 
is s/p left TKR. Left knee pain radiates up to left groin, is 
chronic and patient did not take her Tylenol today for it.
In the ED, initial vitals were: 97.6 84 145/89 16 100% RA
- Exam significant for LLL mild crackles and occ. wheeze
___ RUSB SEM
- Labs were significant for unremarkable CBC, BUN/Creat 50/2.4
- Imaging revealed: (own read) no acute intrathoracic process
- The patient was given tyelnol x1
Admitted for work-up ___ and possible TTE.
Vitals prior to transfer were: 97.7 77 143/64 24 97% RA
Upon arrival to the floor, pt appears well.
REVIEW OF SYSTEMS:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.
 
Past Medical History:
- Hypertension  
- Hyperchloseterolemia  
- AAA - infra-renal 
- GERD  
- Left Renal Mass  
-> nodular enhancing solid/cystic left renal mass 16x13mm  
- Spinal stenosis  
-> with symptoms and signs of radicular compression with an MRI  

from ___ disclosing severe spinal stenosis at the L4-L5 level,  

grade 1 spondylolisthesis of L4 over L5, severe foraminal 
stenosis  
at L4-L5 and mild-to-moderate stenosis at L3-L4  
- degenerative joint disease of ankles and knees secondary to 
severe  
mechanical alterations w/ Tricompartmental OA of left knee 
thyroid nodules 
.  
Cardiac Risk Factors: (-)Diabetes, (+) Dyslipidemia and 
Hypertension  

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===================
Vitals: 96.9 156/76 69 16 100%RA
wt 67.25
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP mildly elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, SEM ___ at LUSB
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: AAOx3

DISCHARGE PHYSICAL EXAM:
====================
Vitals:  Tc 98.0 HR 64 BP 120-160/50-70 RR 16 SpO2 100%RA Wt 
67.6kg
General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP mildly elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, SEM ___ at LUSB  
 Lungs: Mild bibasilar crackles, no wheezes
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: AAOx2 (said year was ___
 
Pertinent Results:
ADMISSION LABS:

___ 10:36AM BLOOD WBC-9.3 RBC-4.32 Hgb-12.0 Hct-38.0 MCV-88 
MCH-27.8 MCHC-31.6* RDW-14.3 RDWSD-45.7 Plt ___
___ 10:36AM BLOOD Neuts-72.5* ___ Monos-5.2 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-6.76* AbsLymp-1.97 
AbsMono-0.49 AbsEos-0.07 AbsBaso-0.02
___ 10:36AM BLOOD UreaN-50* Creat-2.4*# Na-139 K-4.0 Cl-99
___ 10:36AM BLOOD proBNP-199
___ 10:36AM BLOOD 25VitD-29*
___ 06:04PM URINE Hours-RANDOM UreaN-625 Creat-79 Na-66 
K-30 Cl-51
___ 06:04PM URINE Osmolal-453

OTHER PERTINENT LABS:

___ 10:36AM BLOOD UreaN-50* Creat-2.4*# Na-139 K-4.0 Cl-99
___ 06:57AM BLOOD Glucose-86 UreaN-51* Creat-2.2* Na-139 
K-4.3 Cl-105 HCO3-23 AnGap-15
___ 03:05PM BLOOD Glucose-94 UreaN-47* Creat-2.0* Na-139 
K-4.3 Cl-104 HCO3-23 AnGap-16
___ 07:17AM BLOOD Glucose-82 UreaN-34* Creat-1.5* Na-141 
K-4.1 Cl-108 HCO3-22 AnGap-15
___ 10:36AM BLOOD 25VitD-29*

IMAGING:
CXR ___ - No acute intrathoracic process.

MICRO: none

DISCHARGE LABS:
___ 07:55AM BLOOD WBC-5.2 RBC-3.95 Hgb-10.7* Hct-34.5 
MCV-87 MCH-27.1 MCHC-31.0* RDW-14.0 RDWSD-45.1 Plt ___
___ 07:55AM BLOOD Glucose-81 UreaN-29* Creat-1.4* Na-143 
K-4.4 Cl-107 HCO3-26 AnGap-14
___ 07:55AM BLOOD Calcium-9.4 Phos-3.2 Mg-1.8
 
Brief Hospital Course:
SUMMARY:
___ y/o F referred in by her PCP. Patient has history of severe 
AS (peak gradient of 58, mean of 35, EF55% in ___, dCHF, HTN. 
She went in to her PCP with dyspnea on exertion, and routine 
labs showed a BUN/Cr of 50/2.4 in setting of increased lasix 
dosing x3 days and decreased PO intake.  

___ on CKD:  
 Baseline Creat 1.3. Admitted with Cr 2.4 in setting of 
increased lasix dosing last week, decreased PO intake over past 
week due to worsening reflux after eating spicy food. SCr 
improved with IV fluids. Creatinine was 1.4 after PO intake only 
for 1 day prior to discharge

#chronic compensated diastolic heart failure:  
No e/o acute fluid overload. Above ___ likely in setting of 
overdiuresis and poor PO intake. Held home lasix upon discharge.

#HTN: Continued home amplodipine 
 
#GERD: Continued omeprazole, ranitidine. Patient states her 
reflux was much improved while inpatient, although she reports 
taking her outpatient medications as prescribed. She lives with 
her son and daughter-in-law. Patient is well versed in her 
medications, though she takes them herself out of the bottles 
each day.
 
#Vitamin D deficiency: Continued home vitamin D  

TRANSITIONAL ISSUES:
- Discharge weight: 67.6 kg
- ___: Please check CMP to monitor Creatinine/electrolytes on 
___ or ___ and fax results to patient's PCP ___ 
___ at ___.
- Patient states poor PO intake due to reflux/GERD exacerbation. 
Improved on home regimen while inpatient. Defer additional 
management of outpatient GERD medications to PCP.
- Furosemide was held during hospitalization given ___ and fluid 
resuscitation. Defer restarting this medication to 
PCP/Cardiologist.
- Recommend continued goals of care discussion with PCP. Patient 
may benefit from palliative care/hospice referral.
- DNR/DNI 
- contact: ___ (son/HCP) ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Pravastatin 20 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Ranitidine 150 mg PO QHS 
7. Vitamin D ___ UNIT PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Acetaminophen 650 mg PO QHS 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Pravastatin 20 mg PO DAILY 
5. Ranitidine 150 mg PO QHS 
6. Vitamin D ___ UNIT PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Acetaminophen 650 mg PO QHS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
-acute kidney injury 

SECONDARY: 
-hypertension
-gastroenterologist 
-severe aortic stenosis
-chronic compensated diastolic congestive heart failure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were recently admitted for elevated 
creatinine, a measure of your kidney function. You were treated 
with IV fluids and improved. Please ensure that you are eating 
and drinking well at home, as dehydration is likely the cause. 
Please discuss optimizing your reflux medication regimen with 
your primary care doctor.

Please continue taking all of your medications as prescribed and 
keep all of your follow-up appointments.

It was a pleasure caring for you.

Sincerely,
Your ___ care team
 
Followup Instructions:
___